US05952382
(d) Synthesis of 2-hydroxy-4-[7-(1-adamantyl)-6-benzyloxy-2-naphthyl]benzoic acid
930 mg (1.8 mmol) of methyl 2-hydroxy-4-[7-(1-adamantyl)-6-benzyloxy-2-naphthyl]benzoate and 100 ml of a 2N methanolic sodium hydroxide solution were introduced into a round-bottomed flask and the reaction mixture was heated at reflux for one hour. The reaction mixture was evaporated to dryness, the residue was taken up in water and acidified to pH 1 with concentrated hydrochloric acid and the solid was filtered. The solid obtained was triturated in ethyl acetate, filtered and dried. 710 mg (79%) of the expected acid were collected, which acid had a melting point of 263°-4° C.

reactant | methyl 2-hydroxy-4-[7-(1-adamantyl)-6-benzyloxy-2-naphthyl]benzoate | 1.8 mmol, 930 mg | OC1=C(C(=O)OC)C=CC(=C1)C1=CC2=CC(=C(C=C2C=C1)OCC1=CC=CC=C1)C12CC3CC(CC(C1)C3)C2 | C35H34O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 2-hydroxy-4-[7-(1-adamantyl)-6-benzyloxy-2-naphthyl]benzoic acid | OC1=C(C(=O)O)C=CC(=C1)C1=CC2=CC(=C(C=C2C=C1)OCC1=CC=CC=C1)C12CC3CC(CC(C1)C3)C2 | C34H32O4
